US08685977B2
4-Methylphenyl 5-chloro-4-(3,4-dichlorophenoxy)-2-fluorobenzoate
3,4-Dichlorophenol (110 mg, 0.67 mmol) and potassium carbonate (20 mg, 1.42 mmol) were stirred in dimethylsulfoxide (20 mL). After 5 minutes, 4-methylphenyl 5-chloro-2,4-difluorobenzoate (Preparation 10, 200 mg, 0.71 mmol) was added and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with a 1M aqueous solution of sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic phase was dried over magnesium sulphate, filtered and concentrated in vacuo to give a white solid. The solid was purified by silica gel column chromatography (50% ethyl acetate in heptane elution) to afford the title compound as a white solid (286 mg, 95%).

reactant | 3,4-Dichlorophenol | 0.67 mmol, 110 mg | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium carbonate | 1.42 mmol, 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylphenyl 5-chloro-2,4-difluorobenzoate | 0.71 mmol, 200 mg | ClC=1C(=CC(=C(C(=O)OC2=CC=C(C=C2)C)C1)F)F | C14H9ClF2O2
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Methylphenyl 5-chloro-4-(3,4-dichlorophenoxy)-2-fluorobenzoate | 286 mg, 95% | ClC=1C(=CC(=C(C(=O)OC2=CC=C(C=C2)C)C1)F)OC1=CC(=C(C=C1)Cl)Cl | C20H12Cl3FO3
